US07598391B2
1,1-Dicyclohexyl-3-[5-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (K) using 2-(3,3-dicyclohexyl-ureido)-thiazole-5-carboxylic acid and pyrrolidine.

reactant | 2-(3,3-dicyclohexyl-ureido)-thiazole-5-carboxylic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)C(=O)O)=O)C1CCCCC1 | C17H25N3O3S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1,1-Dicyclohexyl-3-[5-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C(=O)N1CCCC1)C1CCCCC1 | C21H32N4O2S
